US07087626B2
4-(5-Methoxy-tetrahydro-furan-3-yl)-benzoic acid ethyl ester
A solution of sodium nitrite (1.67 g, 24.2 mmol) in water (14 mL) is added dropwise to an ice cold mixture of ethyl 4-aminobenzoate (4.0 g, 24.2 mmol) and tetrafluoroboric acid (7.8 mL, 48%, 59.78 mmol) and stirred for 30 min. Methanol (28.5 mL), 2,5-dihydrofuran (3.66 mL, 48.4 mmol) and palladium(II) acetate (70 mg, 0.31 mmol) are added and the mixture refluxed for 30 min. The mixture is filtered through Celite® pad and the filtrate diluted with dichloromethane (100 mL). The organic layer is separated and concentrated in vacuo. The residue is chromatographed on SiO2 (10% ethyl acetate/hexanes) to yield the title compound, 2.45 g (42%), as a white solid.

reactant | sodium nitrite | 24.2 mmol, 1.67 g | N(=O)[O-].[Na+]
reactant | ethyl 4-aminobenzoate | 24.2 mmol, 4.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | tetrafluoroboric acid | 59.78 mmol, 7.8 mL | F[B-](F)(F)F.[H+]
reactant | 2,5-dihydrofuran | 48.4 mmol, 3.66 mL | O1CC=CC1 | C4H6O
reactant | Methanol | 28.5 mL | CO | CH4O
solvent | water | 14 mL | O | H2O
catalyst | palladium(II) acetate | 0.31 mmol, 70 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(5-Methoxy-tetrahydro-furan-3-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1COC(C1)OC)=O | C14H18O4
